* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Simus\Buck-lazo-abierto.asc
V2 pwm 0 PULSE(12 0 0 1n 1n 2.215u 5u)
L§IL Vd Vo 500µ
C1 Vo 0 150n
R1 Vo 0 390
XU1 N004 N002 0 pwm vdd N001 Vd vdd IR2104
V1 vdd 0 12
M2 Vd N005 0 0 IRF530
R2 N003 N002 10
C2 N001 Vd 1µ
D1 vdd N001 D1n5822rl
C3 vdd 0 1µ
M1 vdd N003 Vd Vd IRF530
R3 N005 N004 10
.model D D
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1m 0 10u
.MEASURE TRAN Vo AVG(V(Vo)) FROM=0.2ms TO=2ms
.MEASURE TRAN IL AVG(I(IL)) FROM=0.2ms TO=2ms
.include IR2104.lib
.lib 1N5822RL.LIB
.option noopiter
.option gmin=1e-9
.lib C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Simus\Infineon-IR2104-PSpice-SimulationModels-v01_00-EN\Model\IR2104.lib
.backanno
.end
