* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Simus\Buck-lazo-abierto.asc
V2 pwm 0 PULSE(12 0 0 0.1n 0.1n 1.351u 5u)
L§IL Vd Vo 200µ
C1 Vo 0 150p
R1 Vo 0 6.35
XU1 N004 N002 0 pwm vcc N001 Vd vcc IR2104
V1 vdd 0 36
M2 Vd N005 0 0 IRF530
R2 N003 N002 10
C2 N001 Vd 0.33µ
D1 vcc N001 1N5819
C3 vcc 0 1µ
M1 vdd N003 Vd Vd IRF530
R3 N005 N004 10
V3 vcc 0 12
.model D D
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 2m 0 10u uic
.MEASURE TRAN Vo AVG(V(Vo)) FROM=0.2ms TO=1ms
.MEASURE TRAN IL AVG(I(IL)) FROM=0.2ms TO=1ms
.include IR2104.lib
.lib 1N5822RL.LIB
.option noopiter
* .option gmin=1e-9
.param TiempoMuerto  470n
* Dutys: {0.52916, 0.17638888}
.param Duty 0.17638888
.param fsw  200k
.param ton Duty/fsw -TiempoMuerto
.lib C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Simus\Infineon-IR2104-PSpice-SimulationModels-v01_00-EN\Model\IR2104.lib
.backanno
.end
